US08445691B2
5-[2-(1-methylcyclohexyl)oxiran-2-yl]-1,3-thiazole
To 1.00 g (2.7 mmol) of 1-[(4-bromophenyl)sulphanyl]-3,3-dimethyl-2-(1,3-thiazol-5-yl)butan-2-ol dissolved in 100 ml of dichloromethane was added, at room temperature, 0.70 g (4.0 mmol) of meta-chloroperbenzoic acid, and the reaction mixture was stirred at room temperature for 16 h. After addition of saturated aqueous sodium hydrogen carbonate solution, the organic phase was removed and the aqueous phase was extracted with dichloromethane. The combined organic phases were dried in the sodium sulphate, filtered and concentrated. The crude product was subsequently purified by column chromatography (1:1 tert-butyl methyl ether/petroleum ether). This gave 0.80 g (76%) of compound 8 and 0.25 g (23%) of compound 9.

reactant | 1-[(4-bromophenyl)sulphanyl]-3,3-dimethyl-2-(1,3-thiazol-5-yl)butan-2-ol | 2.7 mmol, 1.00 g | BrC1=CC=C(C=C1)SCC(C(C)(C)C)(O)C1=CN=CS1 | C15H18BrNOS2
reactant | meta-chloroperbenzoic acid | 4.0 mmol, 0.70 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 5-[2-(1-methylcyclohexyl)oxiran-2-yl]-1,3-thiazole | CC1(CCCCC1)C1(OC1)C1=CN=CS1 | C12H17NOS
